US05474994
This compound was prepared in three steps according to the methods described for Intermediate XC (first step) and Intermediate LXXX (second and third steps). In the first step, 4-methylbenzoyl chloride was used instead of 2-furanecarbonyl chloride and methyl 2-hydroxy-3-propionylbenzoate was used instead of ethyl 2-hydroxy-3-propionylbenzoate. The reaction lasted 4 hours at room temperature, yielding methyl 2-(4-methylbenzoyloxy)-3-propionylbenzoate. This compound was used without purification by column chromatography for the second step, that lasted 1.5 hours at 100° C. In the third step, 96% sulfuric acid was used instead of 37% hydrochloric acid. The title compound melted at 174°-175° C. after crystallization from ethanol.

reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | methyl 2-hydroxy-3-propionylbenzoate | OC1=C(C(=O)OC)C=CC=C1C(CC)=O | C11H12O4
product | methyl 2-(4-methylbenzoyloxy)-3-propionylbenzoate | CC1=CC=C(C(=O)OC2=C(C(=O)OC)C=CC=C2C(CC)=O)C=C1 | C19H18O5
